US04582849
16.7 g (0.1 mol) of dichloromaleic anhydride and 12.0 g (0.1 mol) of α-methylbenzylamine are heated in 100 ml of glacial acetic acid at the boiling point for 4 hours. 100 ml of water are then added and the oil which has separated out is extracted with methylene chloride. The methylene chloride phase is separated off, washed with water, dried and evaporated. The oil which remains cystallizes. 20.8 g (77.3% of theory) of dichloromaleic acid N-1-phenylethylimide of melting point 62°-65° C. are obtained.

reactant | dichloromaleic anhydride | 0.1 mol, 16.7 g | Cl/C/1=C(/C(=O)OC1=O)\Cl | C4Cl2O3
reactant | α-methylbenzylamine | 0.1 mol, 12.0 g | CC(C1=CC=CC=C1)N | C8H11N
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | dichloromaleic acid N-1-phenylethylimide | 20.8 g, 77.3% | C1(=CC=CC=C1)C(C)N=C(\C(=C(/C(=O)O)\Cl)\Cl)O | C12H11Cl2NO3
